US07338975B2
N-[(3S)-1-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-2-oxo-pyrrolidin-3-yl]-3-trifluoromethyl-benzamide
A solution of {(3S)-1-[(1S,2S)-(1-{[benzyloxycarbonyl-(2,4-dimethyl-benzyl)-amino]-methyl}-2-hydroxy-pent-3-ynyl)]-2-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (1.16 g, 1.74 mmol) was dissolved in CH2Cl2 (16 mL) and treated with TFA (8 mL). The solution was stirred for 3 h and then concentrated in vacuo. The residue was dissolved in CH2Cl2 and concentrated in vacuo; this procedure was repeated. A portion (0.22 mmol) of the product amine was dissolved in CH2Cl2 (4 mL). The resultant solution was charged sequentially with N, N-diisopropylethylamine (0.16 mL, 0.88 mmol), 4-dimethylaminopyridine (24 mg, 0.22 mmol), meta-trifluoromethylbenzoic acid (41 mg, 0.22 mmol), and BOP (96 mg, 0.22 mmol). The reaction was stirred for 12 h and partitioned between EtOAc and sat. NH4Cl. The organic phase was washed with sat. NaHCO3 and brine, and then dried (Na2SO4), filtered, and concentrated in vacuo. The residue was dissolved in MeOH (6 mL). The resultant solution was charged with 5% Pd/C, Degussa style (50 mg), stirred under H2 (1 atm) for 12 h at RT, filtered, and concentrated in vacuo. The residue was purified by reverse-phase HPLC to afford the title compound as a white powder after lyopholization. MS found: (M+H)+=506.6.

reactant | {(3S)-1-[(1S,2S)-(1-{[benzyloxycarbonyl-(2,4-dimethyl-benzyl)-amino]-methyl}-2-hydroxy-pent-3-ynyl)]-2-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 1.74 mmol, 1.16 g | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)[C@H]([C@H](C#CC)O)CN(CC1=C(C=C(C=C1)C)C)C(=O)OCC1=CC=CC=C1)=O)=O | C32H41N3O6
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N, N-diisopropylethylamine | 0.88 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | meta-trifluoromethylbenzoic acid | 0.22 mmol, 41 mg | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | BOP | 0.22 mmol, 96 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.22 mmol, 24 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[(3S)-1-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-2-oxo-pyrrolidin-3-yl]-3-trifluoromethyl-benzamide | CC1=C(CNC[C@@H]([C@H](CCC)O)N2C([C@H](CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=CC(=C1)C | C27H34F3N3O3
